US05488149
(2) Preparation of 3-(4-biphenylyl)-4-(4-chlorophenyl)-2-butanone
9.93 g of 1-(4-biphenylyl)-2-propanone, 8.4 g of 4-chlorobenzyl chloride and 2.1 g of sodium hydroxide were mixed and heated for 5 hours with stirring on an oil bath of 80° to 90° C. The reaction solution was left to cool to room temperature. Then, ethyl ether and water were added thereto. The organic layer was collected by separation and then dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the solvent was distilled off under reduced pressure. The residue was recrystallized from hexane to obtain 8.42 g (yield: 53%) of the above-identified compound as colorless needles having a melting point of from 107° to 108.5° C.

reactant | 1-(4-biphenylyl)-2-propanone | 9.93 g | C1(=CC=C(C=C1)CC(C)=O)C1=CC=CC=C1 | C15H14O
reactant | 4-chlorobenzyl chloride | 8.4 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | sodium hydroxide | 2.1 g | [OH-].[Na+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-(4-biphenylyl)-4-(4-chlorophenyl)-2-butanone | 8.42 g, yield: 53% | C1(=CC=C(C=C1)C(C(C)=O)CC1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C22H19ClO
